US08802659B2
2-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-ethanesulfonic acid
A solution of 6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (0.1662 g, 0.5354 mmol) and Taurine (0.06700 g, 0.5354 mmol) in anhydrous Ethanol (4.00 mL, 68.5 mmol) was refluxed for 2 hours. The mixture was cooled to room temperature and Sodium cyanoborohydride (0.04037 g, 0.6425 mmol) was added. The mixture was then refluxed overnight. The reaction mixture was cooled to room temperature and washed with Sat. aqueous citric acid (4 mL). The mixture was then concentrated to dryness under reduced pressure. The resulting solid was suspended in water and filtered. The residue was washed with water, air-dried and purified by prep HPLC to give the title compound. ESI-MS (M+H+): 420.34; 1H NMR (400 MHz, DMSO-d6) Shift 8.68 (br. s., 1H), 7.84 (br. s., 1H), 7.73-7.81 (m, 2H), 7.45 (dd, J=1.76, 8.53 Hz, 1H), 7.32-7.35 (m, 1H), 7.12 (dd, J=2.51, 8.78 Hz, 1H), 4.29-4.38 (m, 1H), 4.24 (br. s., 2H), 3.13 (d, J=13.80 Hz, 2H), 2.76 (d, J=13.55 Hz, 2H), 2.10-2.18 (m, 2H), 1.72-1.80 (m, 2H), 1.23-1.36 (m, 2H), 1.09-1.22 (m, 2H), 0.96-1.06 (m, 1H), 0.81 (s, 9H)

reactant | 6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.5354 mmol, 0.1662 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | Taurine | 0.5354 mmol, 0.06700 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | Ethanol | 68.5 mmol, 4.00 mL | C(C)O | C2H6O
reactant | Sodium cyanoborohydride | 0.6425 mmol, 0.04037 g | C(#N)[BH3-].[Na+]
product | 2-{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-ethanesulfonic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCCS(=O)(=O)O | C23H33NO4S
